US09382236B2
N-[4-(7-Bromo-6-methyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-1-yl)phenyl]benzenesulfonamide
N-[4-(2-Amino-4-bromo-3-methylphenylamino)phenyl]benzenesulfonamide (100 mg, 0.231 mmol) synthesized by using 4-bromo-3-methyl-2-nitrophenol was treated with malonyl chloride (22 μL, 0.226 mmol) in THF to give the title compound (12 mg, yield 10%).

reactant | N-[4-(2-Amino-4-bromo-3-methylphenylamino)phenyl]benzenesulfonamide | 0.231 mmol, 100 mg | NC1=C(C=CC(=C1C)Br)NC1=CC=C(C=C1)NS(=O)(=O)C1=CC=CC=C1 | C19H18BrN3O2S
reactant | 4-bromo-3-methyl-2-nitrophenol | BrC1=C(C(=C(C=C1)O)[N+](=O)[O-])C | C7H6BrNO3
reactant | malonyl chloride | 0.226 mmol, 22 μL | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
solvent | THF | C1CCOC1 | C4H8O
product | N-[4-(7-Bromo-6-methyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-1-yl)phenyl]benzenesulfonamide | 12 mg, yield 10% | BrC1=C(C2=C(N(C(CC(N2)=O)=O)C2=CC=C(C=C2)NS(=O)(=O)C2=CC=CC=C2)C=C1)C | C22H18BrN3O4S
